US07507740B2
(ii) Production of 5-(2-aminopropyl)-N-{3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine dihydrochloride
A solution of tert-butyl[2-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)-1-methylethyl]carbamate (350 mg) and 3-chloro-4-[3-(trifluoromethyl)phenoxy]aniline (423 mg) in 1-methyl-2-pyrrolidone (3.5 mL) was stirred at 120° C. for 4 hrs. After cooling to room temperature, triethylamine (0.24 mL) and di-tert-butyl dicarbonate (0.13 mL) were added, and the mixture was stirred for 20 hrs. Water was added to the reaction system and the mixture was extracted with ethyl acetate. The organic layer washed with water and saturated brine and dried over magnesium sulfate. The residue was separated and purified by silica gel column chromatography (hexane:ethyl acetate=19:1→3:2→ethyl acetate) to give a brown solid. To a solution of the obtained solid in tetrahydrofuran (20 mL) was added 2N hydrochloric acid (10 mL) at room temperature, and the mixture was stirred at 60° C. for 20 hrs. After concentration under reduced pressure, ethanol was added and the mixture was further concentrated. To the residue was added diisopropyl ether, and the precipitated crystals were collected by filtration. The crystals were washed with diisopropyl ether to give the title compound (225 mg) as pale-yellow crystals.

reactant | tert-butyl[2-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)-1-methylethyl]carbamate | 350 mg | C(C)(C)(C)OC(NC(CN1C=CC=2N=CN=C(C21)Cl)C)=O | C14H19ClN4O2
reactant | 3-chloro-4-[3-(trifluoromethyl)phenoxy]aniline | 423 mg | ClC=1C=C(N)C=CC1OC1=CC(=CC=C1)C(F)(F)F | C13H9ClF3NO
reactant | di-tert-butyl dicarbonate | 0.13 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrochloric acid | 2N, 10 mL | Cl | ClH
solvent | 1-methyl-2-pyrrolidone | 3.5 mL | CN1C(CCC1)=O | C5H9NO
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
solvent | triethylamine | 0.24 mL | C(C)N(CC)CC | C6H15N
product | 5-(2-aminopropyl)-N-{3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine dihydrochloride | 225 mg | Cl.Cl.NC(CN1C=CC=2N=CN=C(C21)NC2=CC(=C(C=C2)OC2=CC(=CC=C2)C(F)(F)F)Cl)C | InChI=1S/C22H19ClF3N5O.2ClH/c1-13(27)11-31-8-7-18-20(31)21(29-12-28-18)30-15-5-6-19(17(23)10-15)32-16-4-2-3-14(9-16)22(24,25)26;;/h2-10,12-13H,11,27H2,1H3,(H,28,29,30);2*1H
